US07307094B2
A 100 mL round bottom flask equipped with a magnetic stirrer was charged with methyl 2-(4-chlorophenyl)benzoxazole-4-carboxylate (0.50 g, 1.74 mmol), THF (10 mL), methanol (10 mL), lithium hydroxide (0.08 g, 3.48 mmol) and water (10 mL). The reaction was stirred at room temperature for 18 hours. After this time, the reaction was diluted with ethyl acetate (50 mL) then acidified to pH 4 with 2 N HCl. The aqueous layer was extracted with ethyl acetate (2×25 mL). The organic layers were then combined and washed with brine (1×25 mL), dried with sodium sulfate, filtered and concentrated to dryness in vacuo to yield 2-(4-chlorophenyl)benzoxazole-4-carboxylic acid (0.43 g, 90% yield) as a white solid: 1H NMR (500 MHz, CDCl3) δ 11.53 (bs, 1H), 8.26 (d, J=8.5 Hz, 2H), 8.18 (d, J=8.0 Hz, 1H), 7.84 (d, J=8.0 Hz, 1H), 7.58 (d, J=8.5 Hz, 2H), 7.55 (t, J=8.0 Hz, 1H); MS (ESI) m/z 274 [M+H]+

reactant | methyl 2-(4-chlorophenyl)benzoxazole-4-carboxylate | 1.74 mmol, 0.50 g | ClC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)OC | C15H10ClNO3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
reactant | lithium hydroxide | 3.48 mmol, 0.08 g | [OH-].[Li+]
reactant | HCl | 2 N | Cl | ClH
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 10 mL | O | H2O
solvent | methanol | 10 mL | CO | CH4O
product | 2-(4-chlorophenyl)benzoxazole-4-carboxylic acid | 0.43 g, 90% yield | ClC1=CC=C(C=C1)C=1OC=2C(N1)=C(C=CC2)C(=O)O | C14H8ClNO3
